US06310070B1
An amidation reaction and a post-treatment were carried out according to the conditions of Example 18, using 2.2 g (10 mmol) of 4-amino-1-benzyl-5-imidazolecarboxamide prepared in Reference Example 2 and cyclohexanecarbonyl chloride separately prepared according to a conventional method, instead of acetyl chloride, to obtain a crude crystals. The crude crystals were purified by suspension in hot methanol to obtain 1.62 g of 4-cyclohexylcarbonylamino-1-benzyl-5-imidazolecarboxamide (yield 49%).

reactant | 4-amino-1-benzyl-5-imidazolecarboxamide | 10 mmol, 2.2 g | NC=1N=CN(C1C(=O)N)CC1=CC=CC=C1 | C11H12N4O
reactant | cyclohexanecarbonyl chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 4-cyclohexylcarbonylamino-1-benzyl-5-imidazolecarboxamide | 1.62 g, yield 49% | C1(CCCCC1)C(=O)NC=1N=CN(C1C(=O)N)CC1=CC=CC=C1 | C18H22N4O2
